US04927819
Step B 1-Chloro-5-hydroxymethyl-dibenzo[a,d]cyclo heptene
To a solution of 1-chloro-5-methylene-dibenzo[a,d]cycloheptene (9.0 g) in dry tetrahydrofuran (60 ml), under an inert atmosphere was added 9-borabicyclo[3, 3,1]nonane (80.5 ml of a 0.5 molar solution in THF) at ambient temperature and the reaction mixture was then refluxed for 3h. After cooling, the reaction was quenched by the slow addition of 2N sodium hydroxide solution (180 ml) and 30% hydrogen peroxide (36 ml). After stirring vigorously at 0° C. for 45 minutes the reaction mixture was allowed to warm to room temperature over a 2h period then extracted into diethyl ether (3×250 ml). The combined organic layers were washed with brine (1×500 ml), dried (Na2SO4), filtered and concentrated in vacuo to leave a residue which was purified by chromatography on flash silica with 40% ethyl acetate in hexane as eluent to give the title compound (8.3 g) as a colourless oil. δ (360 MHz, CDCl3) 3.87 (2H, m, CH--CH2OH), 4.21 (1H, t, J=7.9 Hz, CH--CH2OH) 7.02 (1H, d, J=11.9 Hz, CHA =CHB) and 7.17-7.46 (8H, m, CHA =CHB and 7 aromatic protons). m/e 258 and 256 (M+).

reactant | 1-chloro-5-methylene-dibenzo[a,d]cycloheptene | 9.0 g | ClC1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)=C | C16H11Cl
reactant | 9-borabicyclo[3, 3,1]nonane | C12CCCC(CCC1)B2 | C8H15B
reactant | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
reactant | THF | C1CCOC1 | C4H8O
product | 1-Chloro-5-hydroxymethyl-dibenzo[a,d]cyclo heptene | 8.3 g | ClC1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)CO | C16H13ClO
